US07786044B2
21. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-((E)-propenyl)pyrimidine-4-carboxylic acid methyl ester (Compound 22)
6-Amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid methyl ester (400 mg, 1.02 mmol), trans-propenyl boronic acid (2132 mg, 1.54 mmol), bis(triphenylphosphine)palladium(II) dichloride (72 mg, 0.1 mmol), and cesium fluoride (311 mg, 2.05 mmol) were combined in 1,2-dimethoxyethane (2 mL) and water (2 mL) and heated at 100° C. for 15 min in a CEM microwave reactor. The cooled reaction mixture was partitioned between ethyl acetate and water; and the organic phase was dried and concentrated. The product was purified by flash chromatography on silica gel (hexane/ethyl acetate gradient) then purified again by reverse phase HPLC to yield the title compound: mp 133-135° C.: 1H NMR (CDCl3) δ 7.63 (m, 1H), 7.22 (m, 1H), 6.43 (m, 1H), 6.12 (m, 1H), 5.35 (br s, 2H), 3.99 (d, 3H), 3.94 (s, 3H), 1.94 (dd, 3H).

reactant | 6-Amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid methyl ester | 1.02 mmol, 400 mg | COC(=O)C1=NC(=NC(=C1Br)N)C1=C(C(=C(C=C1)Cl)OC)F | C13H10BrClFN3O3
reactant | trans-propenyl boronic acid | 1.54 mmol, 2132 mg | C(=C\C)/B(O)O | C3H7BO2
reactant | cesium fluoride | 2.05 mmol, 311 mg | [F-].[Cs+]
reactant | water | 2 mL | O | H2O
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.1 mmol, 72 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-((E)-propenyl)pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC(=C1\C=C\C)N)C1=C(C(=C(C=C1)Cl)OC)F | C16H15ClFN3O3
